US04474700
B. Tetramethylammonium 3-Methylsulfonyltetrafluoropropionate
Trimethylamine (12.4 g, 0.21 mol) was distilled into a stirred solution of 47.8 g (0.20 mol) of methyl 3-methylsulfonyltetrafluoropropionate in 100 ml of ether. The mixture was stirred overnight, filtered under nitrogen, and the solid dried under vacuum. There was thus obtained 52.1 g (88%) of tetramethylammonium 3-methylsulfonyltetrafluoropropionate, mp 98° to 100°, as deliquescent crystals. NMR (DMSO-d6): 1H 3.40 (t, JHF 2 Hz, 3H, CH3SO2) and 3.17 ppm (s, 12H, (CH3)4N+); 19F-112.3 (t, JFF 3.0 Hz, 2F, CF2C=O) and -114.4 ppm (t, JFF 3.0 Hz, of m, 2F, CF2SO2). Anal. Calcd. for C8H15F4NO4S: C, 32.32; H, 5.09; N, 4.7. Found: C, 32.20; H, 5.17; N, 4.44.

reactant | Trimethylamine | 0.21 mol, 12.4 g | CN(C)C | C3H9N
reactant | methyl 3-methylsulfonyltetrafluoropropionate | 0.20 mol, 47.8 g | CS(=O)(=O)C(C(C(=O)OC)(F)F)(F)F | C5H6F4O4S
solvent | ether | 100 ml | CCOCC | C4H10O
product | Tetramethylammonium 3-Methylsulfonyltetrafluoropropionate | CS(=O)(=O)C(C(C(=O)[O-])(F)F)(F)F.C[N+](C)(C)C | InChI=1S/C4H4F4O4S.C4H12N/c1-13(11,12)4(7,8)3(5,6)2(9)10;1-5(2,3)4/h1H3,(H,9,10);1-4H3/q;+1/p-1
